US07071184B2
b. (S)-2-({1-[(2R,5S)-5-((S)-2-Amino-4-methyl-pentanoylamino)-2-methyl-6-hydroxy-azepan-1-yl]-methanoyl}-amino)-4-methyl-pentanoic acid methyl ester
4.0 M HCl in dioxane (8 ml) was added to a stirred solution (S)-2-({1-[(2R,5S)-5-((S)-2-tert-Butoxycarbonylamino-4-methyl-pentanoylamino)-2-methyl-6-hydroxy-azepan-1-yl]-methanoyl}-amino)-4-methyl-pentanoic acid methyl ester (490 mg, 0.93 mmol) in MeOH (8 ml). The reaction mixture was stirred for 2.5 h at RT, then was concentrated in vacuo by rotary evaporation and was used in the next reaction without further purification (430 mg).

reactant | HCl | 4.0 M | Cl | ClH
reactant | (S)-2-({1-[(2R,5S)-5-((S)-2-tert-Butoxycarbonylamino-4-methyl-pentanoylamino)-2-methyl-6-hydroxy-azepan-1-yl]-methanoyl}-amino)-4-methyl-pentanoic acid methyl ester | 0.93 mmol, 490 mg | COC([C@H](CC(C)C)NC(=O)N1[C@@H](CC[C@@H](C(C1)O)NC([C@H](CC(C)C)NC(=O)OC(C)(C)C)=O)C)=O | C26H48N4O7
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
solvent | MeOH | 8 ml | CO | CH4O
product | (S)-2-({1-[(2R,5S)-5-((S)-2-Amino-4-methyl-pentanoylamino)-2-methyl-6-hydroxy-azepan-1-yl]-methanoyl}-amino)-4-methyl-pentanoic acid methyl ester | COC([C@H](CC(C)C)NC(=O)N1[C@@H](CC[C@@H](C(C1)O)NC([C@H](CC(C)C)N)=O)C)=O | C21H40N4O5
